US09340547B2
a) (S)-tert-Butyl 1-(3-bromo-2-(3,5-difluorophenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
The title compound was prepared from 1-amino-3-bromo-N-(3,5-difluorophenyl)-1H-pyrrole-2-carboxamide (7.87 g, 24.9 mmol) and (S)-2-(tert-butoxycarbonylamino)propanoic acid (purchased from Aldrich, 5.65 g, 29.9 mmol) following the experimental procedure described in Preparation 45a. 6.6 g (51% yield) of the desired compound were obtained.

reactant | 1-amino-3-bromo-N-(3,5-difluorophenyl)-1H-pyrrole-2-carboxamide | 24.9 mmol, 7.87 g | NN1C(=C(C=C1)Br)C(=O)NC1=CC(=CC(=C1)F)F | C11H8BrF2N3O
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 29.9 mmol, 5.65 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
product | (S)-tert-Butyl 1-(3-bromo-2-(3,5-difluorophenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 6.6 g, 51% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC1=CC(=CC(=C1)F)F)=O | C19H21BrF2N4O4
